US07220862B2
3,4-Dinitro-benzaldehyde
A solution of (3,4-dinitro-phenyl)-methanol (95.3 g, 481 mmol) in methylene chloride (500 mL) was added all at once to a suspension of pyridinium chlorochromate (156 g, 722 mmol) in methylene chloride (900 mL). The mixture was stirred at room temperature for 1.5 h and then ether (1500 mL) was added. The supernatant was decanted from the resulting black gum, and the insoluble residue was washed thoroughly with methylene chloride (3×250 mL). The combined organic solution were filtered through a pad of florisil to afford a light bright yellow clear solution. Solvents were removed in vacuo and the residue was purified by silica gel chromatography using methylene chloride as eluent to afford the title compound as a yellow solid (71%). 1H-NMR (CDCl3, 300 MHz) δ 8.45 (d, J=1.5 Hz, 1H), 8.28 (dd, J=8.1, 1.5 Hz, 1H), 8.07 (d, J=8.1 Hz, 1H). 13CNMR(CD3OD, 125 MHz) δ 187.7, 139.2, 134.2, 126.2, 125.7.

reactant | (3,4-dinitro-phenyl)-methanol | 481 mmol, 95.3 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])CO | C7H6N2O5
reactant | pyridinium chlorochromate | 722 mmol, 156 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ether | 1500 mL | CCOCC | C4H10O
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 900 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dinitro-benzaldehyde | 71% | [N+](=O)([O-])C=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H4N2O5
